US03984403
In 10 ml of water is suspended 1.00 g. of CET. In the meantime, l-lysine hydrochloride is dissolved in water and the solution is passed over a basic ion exchange resin (Amberlite IRA-411 of Rohm and Haas Co., U.S.A.). The aqueous solution of free l-lysine base thus obtained (containing 0.37 g. of l-lysine) is added to the above suspension. The resultant pale-yellowish solution is lyophilized, whereupon a porous solid product is obtained. This product is recrystallized from a solvent mixture of water and ethanol to harvest crystalline CET-l-lysine salt. Yield: 70%.

reactant | l-lysine hydrochloride | Cl.N[C@@H](CCCCN)C(=O)O
solvent | water | 10 ml | O | H2O
product | l-lysine base | Yield: 70% | C(CCN)CC(C(=O)O)N | C6H14N2O2
